US04762843
A solution of tris(dimethylamino)methane, 25.0 g (172 mmol), in 100 ml toluene is added dropwise, under nitrogen, to a solution of the monoethylene ketal of 1,4-cyclohexanedione, 25.0 g (160 mmol), in 300 ml of toluene. The resulting solution is evaporated in-vacuo and the residue is dissolved in 600 ml of methanol along with 38.72 g (320 mmol) of guanidine carbonate. The pH of the solution is adjusted to 9 with 15% hydrochloric acid and the mixture is refluxed for 16 hours. The solvent is evaporated and the yellow residue is washed with cold water and recrystallized from absolute ethanol to yield 11.0 g of 5,6,7,8-tetrahydro-6-ketoquinazolin-2-amine, ethylene ketal as yellow prisms; mp 214°-217° C.

reactant | tris(dimethylamino)methane | CN(C)C(N(C)C)N(C)C | C7H19N3
reactant | 1,4-cyclohexanedione | C1(CCC(CC1)=O)=O | C6H8O2
reactant | guanidine carbonate | 320 mmol, 38.72 g | C(O)(O)=O.NC(=N)N
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 600 ml | CO | CH4O
product | 5,6,7,8-tetrahydro-6-ketoquinazolin-2-amine | 11.0 g | O=C1CC=2C=NC(=NC2CC1)N | C8H9N3O
